US06900205B2
To a stirred mixture of NaH (524 mg, 21.8 mmol) in toluene (20 mL) was added dropwise ethyl cyanoacetate (3.7 g, 32.7 mmol, 3.5 mL). The slurry was stirred for 1 h and then 4-nitrophenyl 2-{[3-(trifluoromethyl)phenyl]amino}nicotinate (4.4 g, 10.9 mmol) was added. The reaction mixture was stirred for 1 h and then quenched with water (20 mL). CH2Cl2 (30 mL) was added and the layers were partitioned. The organic layer was washed with brine (2×) and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by silica gel flash chromatography (5:1 to 2:1 Hex:EtOAc) to afford 3 Ethyl 2-cyano-3-oxo-3-(2-{[3-(trifluoromethyl)phenyl]amino}-3-pyridinyl)propanoate. (6 g, 87%): LCMS RT: 2.83 min, MH+: 378.0.

reactant | NaH | 21.8 mmol, 524 mg | [H-].[Na+]
reactant | ethyl cyanoacetate | 32.7 mmol, 3.5 mL, 3.7 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | 4-nitrophenyl 2-{[3-(trifluoromethyl)phenyl]amino}nicotinate | 10.9 mmol, 4.4 g | FC(C=1C=C(C=CC1)NC1=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=CC=N1)(F)F | C19H12F3N3O4
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-cyano-3-oxo-3-(2-{[3-(trifluoromethyl)phenyl]amino}-3-pyridinyl)propanoate | C(#N)C(C(=O)OCC)C(C=1C(=NC=CC1)NC1=CC(=CC=C1)C(F)(F)F)=O | C18H14F3N3O3
